US05683998
N-(3-methoxypropyl)glycine ethyl ester (20)
A solution containing 52 g of 3-methoxypropylamine in 100 ml of tetrahydrofuran is immersed in iced water and a solution containing 27 g of ethyl bromoacetate in 30 ml of tetrahydrofuran is added dropwise for 1 hour. The resultant is stirred at room temperature for 2 hours and the solvent and the excess 3-methoxypropylamine are evaporated under reduced pressure. The residue is purified by silica gel column chromatography (ethanol:dichloromethane=1:20) to obtain 19 g of the captioned compound in the form of colorless oil.

reactant | 3-methoxypropylamine | 52 g | COCCCN | C4H11NO
reactant | ethyl bromoacetate | 27 g | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(3-methoxypropyl)glycine ethyl ester | 19 g | C(C)OC(CNCCCOC)=O | C8H17NO3
